US07557114B2
(a) 5-Chloro-6-methoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Lit. Org. Lett. 2002, 4(6), 973-976. To a stirred suspension of 1.84 mmol 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A3(c)) in 7 ml methanol were added 0.18 mmol copper(I) iodide, 3.69 mmol cesium carbonate and 0.37 mmol 1,20-phenanthroline and the reaction mixture was stirred at 140° C. for 16 h. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a light red solid. MS (m/e): 230.2 ({37Cl}[M+H− Me2C═CH2]+, 42%), 228.2 ({35Cl}[M+H− Me2C═CH2]+, 100%).

reactant | 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.84 mmol | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)I | C13H15ClINO2
reactant | cesium carbonate | 3.69 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 7 ml | CO | CH4O
catalyst | copper(I) iodide | 0.18 mmol | [Cu]I
product | 5-Chloro-6-methoxy-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)OC | C14H18ClNO3
